US06740656B2
Step 3A 2-(2-Chlorophenyl)-N-[2-hydroxy-1-(2-fluorophenyl)ethyl]acetamide.
A mixture of 2-fluorophenylglycinol (0.180 g, 1.16 mmol), 2-chlorophenylacetic acid (0.218 g, 1.28 mmol), 1-hydroxybenzotriazole hydrate (0.172 g, 2.49 mmol), and 1-methyl-2-pyrrolidinone (0.1 mL) in dichloromethane (5 mL) was stirred for 15 min. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.244 g, 1.28 mmol) was added in one portion, and stirring was continued for 4 hours. The mixture was diluted with dichloromethane (10 mL), washed with sat. aq. sodium bicarbonate (2×10 mL), dried over magnesium sulfate, and evaporated to give a white solid, which was dried in vacuo overnight. The title compound was isolated as a white powder (0.308 g, 87%). MS=308.1 ((M+H)+).

reactant | 2-fluorophenylglycinol | 1.16 mmol, 0.180 g | FC1=C(C=CC=C1)NCCO | C8H10FNO
reactant | 2-chlorophenylacetic acid | 1.28 mmol, 0.218 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | 1-hydroxybenzotriazole hydrate | 2.49 mmol, 0.172 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.28 mmol, 0.244 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | 1-methyl-2-pyrrolidinone | 0.1 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(2-Chlorophenyl)-N-[2-hydroxy-1-(2-fluorophenyl)ethyl]acetamide | ClC1=C(C=CC=C1)CC(=O)NC(CO)C1=C(C=CC=C1)F | C16H15ClFNO2
